US06486342B1
(2-(2-{4-[(3,5-Dimethyl-phenylcarbamoyl)-methyl]-phenoxy}-2-methyl-propionylamino)-3-methyl-butyric acid (24(L), 25(D) and 26 (DL), KDD4-29, 71 and 62)
Using RSR13 acid (1.5 g, 4.4 mmol), valine methyl ester hydrochloride (739 mg, 4.4 mmol) and 1-hydroxybenzotriazole hydrate (635 mg, 4.8 mmol), N-methylmorpholine (666 mg, 6.5 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.01 g, 5.3 mmol) in dimethylformamide (30 mL), the three isomers were prepared in 1.9 g yield (99%).

reactant | RSR13 | 4.4 mmol, 1.5 g | CC=1C=C(C=C(C1)NC(=O)CC=2C=CC(=CC2)OC(C)(C)C(=O)O)C | C20H23NO4
reactant | valine methyl ester hydrochloride | 4.4 mmol, 739 mg | Cl.COC([C@@H](N)C(C)C)=O
reactant | 1-hydroxybenzotriazole hydrate | 4.8 mmol, 635 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-methylmorpholine | 6.5 mmol, 666 mg | CN1CCOCC1 | C5H11NO
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 5.3 mmol, 1.01 g | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 2-(2-{4-[(3,5-Dimethyl-phenylcarbamoyl)-methyl]-phenoxy}-2-methyl-propionylamino)-3-methyl-butyric acid | CC=1C=C(C=C(C1)C)NC(=O)CC1=CC=C(OC(C(=O)NC(C(=O)O)C(C)C)(C)C)C=C1 | C25H32N2O5
